US07531663B2
d) 3-Methoxycarbonyl-1-(quinol-3-yl)-1H-indole
5 cm3 of 1,4-dioxane, 230 cm3 of n-dodecane, 1.04 g (5 mmol) of 3-bromoquinoline and 0.6 cm3 (5 mmol) of trans-1,2-cyclohexanediamine are added at 22° C. under an argon atmosphere to 0.876 g (5 mmol) of 3-methoxycarbonyl-1H-indole, 2.23 g (10.51 mmol) of potassium orthophosphate and 0.09 g (0.5 mmol) of copper iodide. After stirring at 100° C. for 31 hours and after 48 hours at 22° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is diluted with 100 cm3 of ethyl acetate and then washed with 3 times 100 cm3 of water and 25 cm3 of saturated aqueous sodium chloride solution. After separating the phases by settling, the organic phase is dried over anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) to give 1.2 g of a residue which is purified by flash chromatography [eluent: cyclohexane/ethyl acetate (8/2 by volume)]. After concentrating the fractions under reduced pressure, 0.9 g of a yellow solid is obtained, which solid is recrystallised under hot conditions from a cyclohexane (6 cm3)/ethyl acetate (a few drops) mixture to give, after filtering off and drying under reduced pressure (2.7 kPa) at 40° C., 0.15 g of 3-methoxycarbonyl-1-(quinol-3-yl)-1H-indole in the form of a white solid melting at 138° C.

reactant | n-dodecane | 230 cm3 | CCCCCCCCCCCC | C12H26
reactant | 3-bromoquinoline | 5 mmol, 1.04 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | trans-1,2-cyclohexanediamine | 5 mmol, 0.6 cm3 | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | 3-methoxycarbonyl-1H-indole | 5 mmol, 0.876 g | COC(=O)C1=CNC2=CC=CC=C12 | C10H9NO2
reactant | potassium orthophosphate | 10.51 mmol, 2.23 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.5 mmol, 0.09 g | [Cu](I)I
solvent | 1,4-dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
product | 3-Methoxycarbonyl-1-(quinol-3-yl)-1H-indole | 1.2 g | COC(=O)C1=CN(C2=CC=CC=C12)C=1C=NC2=CC=CC=C2C1 | C19H14N2O2
